US07030141B2
Step 4: 2-(3-Fluoro-2′-methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
2-(3-Fluoro-2′-methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine 1-carboxylic acid tert-butyl ester (1.2 g, 2.8 mmol) was dissolved in 30 mL EtOAc, added m-chloroperoxybenzoic acid (3.2 g, 11 mmol) in one portion and stirred at ambient temperature for 3 hours. A 10% aqueous solution (50 mL) of Na2S2O3 was added to the vigorously stirring reaction in order to quench peroxide. After 30 minutes the solution was diluted with 100 mL EtOAc, separated layers, washed organics with sat. NaHCO3 (3×100 mL), brine, dried with MgSO4, filtered and concentrated. Purified on a silica gel column eluted with 50% EtOAc in hexanes. Combined and concentrated pure fractions to yield title compound as a yellow foam. (1.01 g, 78%) APCI (AP−): 461.1 (M−H)−.

reactant | 2-(3-Fluoro-2′-methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine 1-carboxylic acid tert-butyl ester | 2.8 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)SC)F)=O | C23H27FN2O3S
reactant | m-chloroperoxybenzoic acid | 11 mmol, 3.2 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 2-(3-Fluoro-2′-methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)F)=O | C23H27FN2O5S
